US08304419B2
4-bromo-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide
EDC (0.059 g, 0.309 mmol) and HOBT (0.042 g, 0.309 mmol) were added to a solution of 3-{[3-(aminomethyl)-6-bromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.100 g, 0.281 mmol) and 4-bromo-1H-imidazole-5-carboxylic acid (0.054 g, 0.281 mmol) in DMF (2 ml). The mixture was stirred at RT overnight. The reaction mixture was extracted with ethyl acetate and saturated aqueous sodium bicarbonate and the organic layer was dried over sodium sulfate and concentrated. Purification by reverse phase HPLC (acetonitrile:water with 0.1% formic acid) gave 0.068 g (45%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.34 (br. s., 1H), 7.77 (s, 2H), 7.58 (d, 1H), 7.45 (s, 1H), 7.40 (t, 1H), 7.27 (t, 1H), 4.45 (d, 2H). ES MS: m/z 527 (M+1).

reactant | EDC | 0.309 mmol, 0.059 g
reactant | HOBT | 0.309 mmol, 0.042 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-{[3-(aminomethyl)-6-bromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.281 mmol, 0.100 g | NCC=1C(=C(C(=CC1)Br)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9BrClFN2O
reactant | 4-bromo-1H-imidazole-5-carboxylic acid | 0.281 mmol, 0.054 g | BrC=1N=CNC1C(=O)O | C4H3BrN2O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-bromo-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.068 g, 45% | BrC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Br)OC1=CC(=CC(=C1)C#N)Cl)F | C18H10Br2ClFN4O2
